US07012089B2
6-Chloro-3-methyl-2,3,4,5,10,11,12,13-octahydro-1H,9H-cyclohepta[b][1,4]diazocino[7,8,1-hi]indole
To a solution of 7-chloro-4-methyl-3,4,5,6-tetrahydro-2H-benzo[e][1,4]diazocin-1-ylamine (1.20 g, 5.32 mmole) in 1-propanol (100 mL) was added cycloheptanone (6.65 g, 59.3 mmole) followed by p-toluenesulfonic acid monohydrate (3.2 g, 16.8 mmol) and the resulting reaction mixture was refluxed for 24 hours. The reaction mixture was cooled to room temperature and solvent removed in vacuo to produce a brown residue. The residue was diluted with ethyl acetate (300 mL) and washed with saturated sodium bicarbonate (150 mL), saturated sodium chloride (150 mL), dried (sodium sulfate) and concentrated. Purification by flash column chromatography (silica gel, ethyl acetate:hexanes 1:1) provided 0.55 g of the title compound as a white solid, mp 132-134° C. MS (ESI) m/z 303 ([M+H]+).

reactant | 7-chloro-4-methyl-3,4,5,6-tetrahydro-2H-benzo[e][1,4]diazocin-1-ylamine | 5.32 mmole, 1.20 g | ClC1=CC=CC=2N(CCN(CCC21)C)N | C11H16ClN3
reactant | cycloheptanone | 59.3 mmole, 6.65 g | C1(CCCCCC1)=O | C7H12O
reactant | p-toluenesulfonic acid monohydrate | 16.8 mmol, 3.2 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
solvent | 1-propanol | 100 mL | C(CC)O | C3H8O
solvent | ethyl acetate | 300 mL | C(C)(=O)OCC | C4H8O2
product | 6-Chloro-3-methyl-2,3,4,5,10,11,12,13-octahydro-1H,9H-cyclohepta[b][1,4]diazocino[7,8,1-hi]indole | 0.55 g | ClC1=CC=C2C3=C(N4C2=C1CCN(CC4)C)CCCCC3 | C18H23ClN2
